US08669234B2
(1-{2-[5-(7-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-dibenzothiophen-3-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (0.0041 mmol., 4 mg) was dissolved in 1 mL DCM and cooled to −40° C. mCPBA (0.4 mg, 0.9 eq.) was added. The reaction mixture was stirred at −40° C. for 2 hours and warmed up to 0° C. over 2 hours, then warmed up to room temperature overnight. The reaction mixture was diluted with ethyl acetate and washed with saturated sodium bicarbonate solution. The organic layer was dried (MgSO4), concentrated and purified by preparative reverse phase HPLC (GEMINI, 5 to 100% ACN/H2O+0.1% TFA). Product was lyophilized to give a yellow powder (1-{2-[5-(7-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-5-oxo-5H-5λ4-dibenzothiophen-3-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (Example DD) (0.6 mg).

reactant | (1-{2-[5-(7-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-dibenzothiophen-3-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.0041 mmol, 4 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C=1C=CC2=C(SC3=C2C=CC(=C3)C=3NC(=NC3)C3N(CCC3)C(C(C(C)C)NC(=O)OC)=O)C1)=O | C40H48N8O6S
reactant | mCPBA | 0.4 mg, 0.9 eq. | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1-{2-[5-(7-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-5-oxo-5H-5λ4-dibenzothiophen-3-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.6 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C=1C=CC2=C(S(C3=C2C=CC(=C3)C=3NC(=NC3)C3N(CCC3)C(C(C(C)C)NC(=O)OC)=O)=O)C1)=O | C40H48N8O7S
